US07462624B2
Step D: 7-(tetrahydro-2H-pyran-2-yl)-6,7-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one
To the solution of 5-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-[1,2,4]triazolo[3,4-i]purine (0.17 g, 0.50 mmol) in THF (10 mL) was added lithium hydroxide (420 mg, 18 mmol) and water (10 mL). After stirring at room temperature for 10 minutes, the reaction mixture was concentrated under reduced pressure to give the product, which is used for next step without further purification. LCMS calculated for C11H13N6O2 (M+H): 261.1; found: 261.0.

reactant | 5-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-[1,2,4]triazolo[3,4-i]purine | 0.50 mmol, 0.17 g | ClC=1N2C(C=3N=CN(C3N1)C1OCCCC1)=NN=C2 | C11H11ClN6O
reactant | lithium hydroxide | 18 mmol, 420 mg | [OH-].[Li+]
reactant | water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-(tetrahydro-2H-pyran-2-yl)-6,7-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one | O1C(CCCC1)N1C=2NC(N3C(C2N=C1)=NN=C3)=O | C11H12N6O2
